US07855215B2
5-(6-Dihydroxymethyl-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
To solution of 100 mg (0.21 mMol) 6-[1-(3-trifluoromethyl-phenylcarbamoyl)-2,3-dihydro-1H-indol-5-yloxy]-pyrimidine-4-carboxylic acid ethyl ester (Expl. 72) in 3 ml THF at −78° C. are added 1.39 ml of a 1 M solution of diisobutylaluminium hydride in THF. After 20 h at −78° C., the mixture is slowly warmed up to 0° C. and stirred at this temperature for 2 h. Then the mixture is diluted with EtOAc and water, the aqueous layer separeted off and extracted twice with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and after addition of 0.25 g of SiO2 concentrated. The resulting powder is put on top of a chromatography column (SiO2; EtOAc/hexane 1:4) and the title compound eluated with EtOAc/hexane 1:1: MS: [M+1]+=446; HPLC: AtRet=13.0.

reactant | 6-[1-(3-trifluoromethyl-phenylcarbamoyl)-2,3-dihydro-1H-indol-5-yloxy]-pyrimidine-4-carboxylic acid ethyl ester | 0.21 mMol, 100 mg | C(C)OC(=O)C1=NC=NC(=C1)OC=1C=C2CCN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O | C23H19F3N4O4
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-(6-Dihydroxymethyl-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)C(O)O)(F)F | C21H17F3N4O4
